US08212045B2
5-Bromo-3-nitropicolinonitrile (24.0 g, 105 mmol), 1-ethyl-1H-pyrazol-5-ol (13.0 g, 116 mmol), and sodium carbonate (11.2 g, 105 mmol) were combined with acetonitrile (400 ml). The mixture was heated to reflux for 20 hours, then cooled to ambient temperature, filtered and evaporated. The residue was dissolved in ethyl acetate (800 ml) and washed with water (3×200 ml) and brine, dried (MgSO4), filtered and evaporated. The crude material was purified over silica gel (15:35:50, then 20:30:50 ethyl acetate/chloroform/hexane) to afford 5-bromo-3-(1-ethyl-1H-pyrazol-5-yloxy)picolinonitrile (16.4 g, 53% yield) as a white solid.

reactant | 5-Bromo-3-nitropicolinonitrile | 105 mmol, 24.0 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | 1-ethyl-1H-pyrazol-5-ol | 116 mmol, 13.0 g | C(C)N1N=CC=C1O | C5H8N2O
reactant | sodium carbonate | 105 mmol, 11.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | ethyl acetate chloroform hexane | C(C)(=O)OCC.C(Cl)(Cl)Cl.CCCCCC
product | 5-bromo-3-(1-ethyl-1H-pyrazol-5-yloxy)picolinonitrile | 16.4 g, 53% yield | BrC=1C=C(C(=NC1)C#N)OC1=CC=NN1CC | C11H9BrN4O
